US05463125
Preparation of DL-2-Hydroxy-2-Ethyl-2-Phenyl-Acetamide (DL-HEPA)
In a 1000 ml, two-opening ball matrass equipped with a separating funnel and a thermometer, 89.9 grams (0.67 moles) propiophenone, 100 ml water and 80 ml ethyl ether were added. The matrass was immersed in an ice and salt bath and 82 grams (1.67 moles) granulated sodium cyanide was added. The mixture was shaken vigorously for 20 minutes, and when the mixture temperature had dropped to 5° C., 140 ml (1.7 moles) concentrated hydrochloric acid from the separating funnel was added at such a speed that the temperature of the reaction stayed between 5° C. and 10° C. The addition took nearly two hours.

reactant | propiophenone | 0.67 moles, 89.9 grams | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | water | 100 ml | O | H2O
reactant | sodium cyanide | 1.67 moles, 82 grams | [C-]#N.[Na+]
reactant | hydrochloric acid | 1.7 moles, 140 ml | Cl | ClH
solvent | ethyl ether | 80 ml | C(C)OCC | C4H10O
product | 2-Hydroxy-2-Ethyl-2-Phenyl-Acetamide | OC(C(=O)N)(C1=CC=CC=C1)CC | C10H13NO2
